US08211908B2
To a suspension of 0.20 g or 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 2 mL of methanol, 0.28 g of a 28% sodium methoxide/methanol solution, 73 mg of 5-methoxy-4-methylpyridine-2-carbaldehyde and 28 μL of acetic acid were added. Then, 61 mg of sodium cyanoborohydride was added thereto, and the mixture was stirred at room temperature for 1 hour 30 minutes. To the reaction mixture, chloroform, a saturated aqueous sodium hydrogen carbonate solution and water were added. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using gradient elution with chloroform:methanol=93:7 to 86:14 to obtain 82 mg of 7-methoxy-1-(2-(4-(((5-methoxy-4-methylpyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one as a light yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 5-methoxy-4-methylpyridine-2-carbaldehyde | 73 mg | COC=1C(=CC(=NC1)C=O)C | C8H9NO2
reactant | sodium cyanoborohydride | 61 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 28 μL | C(C)(=O)O | C2H4O2
product | 7-methoxy-1-(2-(4-(((5-methoxy-4-methylpyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one | 82 mg | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=NC=C(C(=C1)C)OC)=O | C24H31N5O3
